US07622471B2
1-(2-Methoxyethyl)piperazine hydrochloride
1-(2-Methoxyethyl)piperazine-4-carboxylic acid tert-butyl ester (1.39 g) obtained from Referential Example 96 was dissolved in 4N HCl-dioxane (20 mL). The resultant solution was stirred at room temperature for 3 hours. The solvent of the reaction mixture was evaporated under reduced pressure, and ethanol was added to the residue, and then the solvent of the resultant mixture was evaporated. Ethanol and ether were added to the residue, and the precipitated solid was recovered by filtration, to thereby give the title compound (900 mg, 74%).

reactant | 1-(2-Methoxyethyl)piperazine-4-carboxylic acid tert-butyl ester | 1.39 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC | C12H24N2O3
reactant | HCl dioxane | 4N, 20 mL | Cl.O1CCOCC1
product | 1-(2-Methoxyethyl)piperazine hydrochloride | 900 mg, 74% | Cl.COCCN1CCNCC1 | InChI=1S/C7H16N2O.ClH/c1-10-7-6-9-4-2-8-3-5-9;/h8H,2-7H2,1H3;1H
